US08106064B2
3-{5-Cyclopropyl-3-[2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl}-5-methyl-benzonitrile (156):
3-[5-Cyclopropyl-3-(2,6-difluoro-pyridin-4-ylmethyl)-2,6-dioxo-1,2,3,6tetrahydro-pyrimidine-4-carbonyl]-5-methyl-benzonitrile (16 mg, 0.054 mmol) was dissolved in 0.5 mL DMF. Potassium carbonate (7.5 mg, 1 eq.) and methanesulfonic acid 2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl ester (1 eq.) were added to the reaction, followed by lithium iodide (7.2 mg, 1 eq.) The reaction was stirred at room temperature overnight. Ethyl acetate was added to the reaction mixture, followed by washing with brine. The organic layer was concentrated down and purified (silica gel, 20-80% EtOAc/hexane) to give light yellow oil (10 mg, 34%). LC-MS shows 540.0 (M+1). 1H NMR (300 MHz, CDCl3): δ 7.81 (s, 1H), 7.63 (s, 1H), 7.59 (s, 1H), 7.23 (s, 1H), 7.21 (s, 2H), 6.91 (s, 1H), 6.88 (s, 1H), 5.80 (s, 1H), 5.78 (s, 1H), 4.26 (d, 2H), 3.80 (s, 2H), 2.39 (s, 3H), 0.9 (m, 1H), 0.62 (m, 3H), 0.41 (m, 1H).

reactant | 3-[5-Cyclopropyl-3-(2,6-difluoro-pyridin-4-ylmethyl)-2,6-dioxo-1,2,3,6tetrahydro-pyrimidine-4-carbonyl]-5-methyl-benzonitrile | 0.054 mmol, 16 mg | C1(CC1)C1=C(N(C(NC1=O)=O)CC1=CC(=NC(=C1)F)F)C(=O)C=1C=C(C#N)C=C(C1)C | C22H16F2N4O3
reactant | Potassium carbonate | 7.5 mg, 1 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonic acid 2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl ester | 1 eq. | FC1=NC(=CC(=C1)COS(=O)(=O)C)NCC1=CC=C(C=C1)OC | C15H17FN2O4S
reactant | lithium iodide | 7.2 mg, 1 eq. | [I-].[Li+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{5-Cyclopropyl-3-[2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl}-5-methyl-benzonitrile | 10 mg, 34% | C1(CC1)C1=C(N(C(NC1=O)=O)CC1=CC(=NC(=C1)NCC1=CC=C(C=C1)OC)F)C(=O)C=1C=C(C#N)C=C(C1)C | C30H26FN5O4
